US05223506
Using the procedure of Example 1, 4,5,6-trimethoxyindan-1-one (1.10 mg, 4.8 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (1.22 g, 4.8 mmol) to yields 7,8,9-trimethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (0.84 mg, 49.9% of theory).

reactant | 4,5,6-trimethoxyindan-1-one | 4.8 mmol, 1.10 mg | COC1=C2CCC(C2=CC(=C1OC)OC)=O | C12H14O4
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 4.8 mmol, 1.22 g | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7,8,9-trimethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 0.84 mg, 49.9% | COC=1C(=C(C=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1)OC)OC | C20H17NO5
